US04277621
The procedure described in Example (1a) is repeated, except that 302.5 g (2 mols) of N-cyclohexylidene-(2-methypropenylamine) and 250 g (4.62 mols) of 1,3-butadiene are used. Distillation yields 382 g (1.48 mols) of 3,3-dimethyl-12,12-pentamethylene-1-aza-1,5,9-cyclododecatriene; boiling point 96° C./4 Pa; nD20 =1.5116. The N-cyclohexylidene-(2-methylpropenylamine) was prepared from cyclohexanone and methallylamine, with subsequent isomerisation of the reaction product with potassium tert.-butylate; boiling point 96° C./1,700 Pa; nD20 =1.5160.

reactant | 4 Pa | C=CCCC(=O)O | C5H8O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | methallylamine | C(C(C)=C)N | C4H9N
product | N-cyclohexylidene-(2-methylpropenylamine) | C1(CCCCC1)=NC=C(C)C | C10H17N
